US04087551
(i) 10-Bromoacetamido bornane
10-Bornanamine (0.5 g) in dry ether (30 ml) containing pyridine (C.45 ml) was treated at -80° with a solution of bromoacetyl bromide (0.3 ml) in ether (5 ml) over one minute with stirring. The mixture was allowed to warm to room temperature and after a further 30 min. it was partitioned between ether and water. The organic layer was washed with 2N-hydrochloric acid solution and then water. It was dried (MgSO4) and evaporated. The residue (0.73 g.) was purified by preparative layer chromatography and by crystallisation from petroleum ether (bp. 60°-80°) to give the title compound (0.48 g) mp. 89°, (Found: C, 52.4; H, 7.3; Br, 28.9; N, 5.0; C12H20BrNO requires C, 52.55; H, 7.35; Br, 29.1; N,5.1%).

reactant | 10-Bornanamine | 0.5 g | C12(CCC(CC1)C2(C)C)CN | C10H19N
reactant | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 0.3 ml | BrCC(=O)Br | C2H2Br2O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 10-Bromoacetamido bornane | 0.48 g | BrCC(=O)NCC12CCC(CC1)C2(C)C | C12H20BrNO
